US08486950B2
To a cooled (0° C.) solution of N-(2,6-dimethylpyrimidin-4-yl)-5-nitropyridine-2,4-diamine (0.348 g, 1.337 mmol) in anhydrous N,N-dimethylformamide (10 mL) under nitrogen was added sodium hydride (0.064 g, 2.67 mmol, 60% dispersion in mineral oil) in one portion. The reaction mixture was stirred at 0° C. for 15 mins and then a solution of 2,6-dichlorobenzoyl chloride (220 uL, 1.5 mmol) in DMF (1.5 mL) was added dropwise. The mixture was stirred at room temperature for 3.5 hours and then quenched with water (60 mL). The mixture was extracted with ethyl acetate (200 mL). The organic layer was dried over Na2SO4, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (20-80% ethyl acetate/heptane) to give 2,6-dichloro-N-(2-(2,6-dimethylpyrimidin-4-ylamino)-5-nitropyridine-4-yl)benzoamide (0.57 g, yield: 100%). LCMS (ESI) m/z: 433.1 [M+H+].

reactant | N-(2,6-dimethylpyrimidin-4-yl)-5-nitropyridine-2,4-diamine | 1.337 mmol, 0.348 g | CC1=NC(=CC(=N1)NC1=NC=C(C(=C1)N)[N+](=O)[O-])C | C11H12N6O2
reactant | sodium hydride | 2.67 mmol, 0.064 g | [H-].[Na+]
reactant | 2,6-dichlorobenzoyl chloride | 1.5 mmol, 220 uL | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 2,6-dichloro-N-(2-(2,6-dimethylpyrimidin-4-ylamino)-5-nitropyridine-4-yl)benzoamide | 0.57 g, yield: 100% | ClC1=C(C(=O)NC2=CC(=NC=C2[N+](=O)[O-])NC2=NC(=NC(=C2)C)C)C(=CC=C1)Cl | C18H14Cl2N6O3
